US06462038B1
A 10 mL Schlenk flask was charged with palladium acetate (10.7 mg, 0.0476 mmol), R-BINAP (32.6 mg, 0.0524 mmol) and sodium t-butoxide (0.137 g, 1.43 mmol). The flask was placed under vacuum, then bled with nitrogen. This process was repeated twice. The solids were dissolved in 3 mL toluene, and a solution of 2-{[6-bromo-2-isopropoxy-4-(trifluoromethyl)-7-quinolinyl]sulfanyl}-1-ethanamine (0.390 g, 0.953 mmol) in 3.3 mL toluene was added. The flask was heated to 100° C. for 4 h, whereupon the reaction was quenched with sat'd NH4Cl (30 mL) and water (30 mL). The mixture was extracted with EtOAc (2×60 mL), and the combined organic layers washed with brine (30 mL), dried over MgSO4, filtered, and concentrated. Flash chromatography (4:1 hexanes:EtOAc) afforded 0.242 g (77%) of 2,3-dihydro-7-isopropoxy-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline, a yellow solid. Data for 2,3-dihydro-7-isopropoxy-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline: 1H NMR (400 MHz, CDCl3) δ 7.56 (s, 1H), 6.99 (s, 1H), 6.90 (broad s, 1H), 5.44 (hept, 1H, J=6.2), 4.35 (broad s, 1H), 3.64-3.70 (m, 2H), 3.11-3.16 (m, 2H), 1.37 (d, 6H, J=6.2).

reactant | sodium t-butoxide | 1.43 mmol, 0.137 g | CC(C)([O-])C.[Na+]
reactant | 2-{[6-bromo-2-isopropoxy-4-(trifluoromethyl)-7-quinolinyl]sulfanyl}-1-ethanamine | 0.953 mmol, 0.390 g | BrC=1C=C2C(=CC(=NC2=CC1SCCN)OC(C)C)C(F)(F)F | C15H16BrF3N2OS
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.0476 mmol, 10.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,3-dihydro-7-isopropoxy-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline | 0.242 g, 77% | C(C)(C)OC1=NC=2C=C3C(=CC2C(=C1)C(F)(F)F)NCCS3 | C15H15F3N2OS
